US07790882B2
Trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-7-methoxynaphthalen-2-yl ester
To a suspension of 1-(4-chlorophthalazin-1-yl)-7-methoxynaphthalen-2-ol (5.5 g, 16 mmol) and pyridine (4.2 ml, 54 mmol) in dichloromethane (500 ml) was added dropwise trifluoromethanesulfonic anhydride (3.2 ml, 19 mmol) over 40 min and the resulting mixture was stirred at 0° C. for 1 hr. The resulting solution was quenched with sat. aqueous ammonium chloride solution. The organic layer was separated and the aqueous layer was extracted twice with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resulting grey solid was dissolved in dichloromethane and passed through a short plug of silica gel. The filtrate was concentrated under reduced pressure. The residue was triturated with pentane to give 6.3 g (14 mmol) of the title compound as a grey powder.

reactant | 1-(4-chlorophthalazin-1-yl)-7-methoxynaphthalen-2-ol | 16 mmol, 5.5 g | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=C(C=C12)OC)O | C19H13ClN2O2
reactant | pyridine | 54 mmol, 4.2 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 19 mmol, 3.2 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-7-methoxynaphthalen-2-yl ester | 14 mmol, 6.3 g | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=C(C=C12)OC)OS(=O)(=O)C(F)(F)F | C20H12ClF3N2O4S
